US06177449B1
f) N-[6-Benzyloxy-2,2-dimethylchroman-4-yl]-N-ethylmethanesulfonamide
7.2 g (20 mmol) of 6-benzyloxy-4-(methylsulfonyl)amino-2,2-dimethylchroman were introduced in portions at 10° C. into a suspension of 0.82 g (27 mmol) of sodium hydride (80 per cent dispersion) in 60 ml of DMA. After stirring at RT for 2 h, 2.2 ml (26.5 mmol) of ethyl iodide were added dropwise, the temperature rising to 32° C. The mixture was then heated to 35-40° C. for 2 h, concentrated in vac., treated with water, the resinous product was taken up EA, the solution was dried and concentrated and the residue was chromatographed using n-heptane/EA (2:1) on silica gel. 6 g of product were crystallized from appropriate fractions using petroleum ether/diisopropyl ether (1:1), m.p. 104-106° C.

reactant | 6-benzyloxy-4-(methylsulfonyl)amino-2,2-dimethylchroman | 20 mmol, 7.2 g | C(C1=CC=CC=C1)OC=1C=C2C(CC(OC2=CC1)(C)C)NS(=O)(=O)C | C19H23NO4S
reactant | sodium hydride | 27 mmol, 0.82 g | [H-].[Na+]
reactant | ethyl iodide | 26.5 mmol, 2.2 ml | C(C)I | C2H5I
solvent | DMA | 60 ml | CC(=O)N(C)C | C4H9NO
product | N-[6-Benzyloxy-2,2-dimethylchroman-4-yl]-N-ethylmethanesulfonamide | C(C1=CC=CC=C1)OC=1C=C2C(CC(OC2=CC1)(C)C)N(S(=O)(=O)C)CC | C21H27NO4S
